L9 (net11 net17) inductor
L8 (net6 net11) inductor
L7 (net33 net17) inductor
L6 (net34 net6) inductor
L5 (net15 net38) inductor
L4 (net37 net15) inductor
L3 (net12 net16) inductor
L2 (net9 net12) inductor
L1 (VSS net16) inductor
L0 (VSS net9) inductor
C3 (net14 net17) capacitor
C2 (net14 net6) capacitor
? Missing component
C0 (VSS net9) capacitor
R12 (net14 VDD) resistor
R11 (VB1 net14) resistor
R10 (VSS VB1) resistor
R9 (net28 VDD) resistor
R8 (net13 net28) resistor
R7 (VSS net13) resistor
R6 (net15 net29) resistor
R5 (VSS net15) resistor
R4 (VSS net4) resistor
R3 (net31 VDD) resistor
R2 (net32 VDD) resistor
R1 (VSS net12) resistor
R0 (VSS net12) resistor
Q5 (net4 net4 net31 0) npn
Q4 (net11 net4 net32 0) npn
Q3 (net36 net38 net33 0) npn
Q2 (net35 net37 net34 0) npn
Q1 (net16 net13 net36 0) npn
Q0 (net9 net13 net35 0) npn
D1 (net30 VDD) diode
D0 (net29 net30) diode
